US07608592B2
Solid pyrazole (3.2 g, 47.36 mmol, 3.0 equiv.) was heated and melted at 80° C. Then solid 2,4-Dichloro-7-methoxy-quinoline (3.6 g, 15.78 mmol, 1.0 equiv.) was added and the mixture was then heated to 115° C. fo 3 h. Then the mixture was cooled to rt and purified by flash chromatography (20% ethyl acetate/hexane) to give 4-Chloro-7-methoxy-2-pyrazol-1-yl-quinoline (2.3 g, 8.88 mmol, 56% yield) as white solid. 1H NMR (CDCl3): 8.77 (d, 1 H, J=2.8 Hz); 8.18 (s, 1H); 8.10 (d, 1 H, J=9.2 Hz); 7.79 (s, 1H); 7.38 (d, 1 H, J=2.8 Hz); 7.23 (dd, 1 H, J=2.0, 8.8 Hz); 6.53-6.52 (m, 1H); 3.98 (s, 3H). MS m/z 260 (M++H).

reactant | pyrazole | 47.36 mmol, 3.2 g, 3.0 equiv. | N1N=CC=C1 | C3H4N2
reactant | 2,4-Dichloro-7-methoxy-quinoline | 15.78 mmol, 3.6 g, 1.0 equiv. | ClC1=NC2=CC(=CC=C2C(=C1)Cl)OC | C10H7Cl2NO
product | 4-Chloro-7-methoxy-2-pyrazol-1-yl-quinoline | 8.88 mmol, 2.3 g, 56% yield | ClC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1 | C13H10ClN3O
